* source EX8_14
V_Vin         N02512 0 DC 0  
R_R1         N02512 N02516  10k TC=0,0 
C_C1         N02516 VOUT  10p  TC=0,0 
E_E1         VOUT 0 0 N02516 100MEG
