* source EX8_18
V_Vplus         N03309 0 DC 0  
R_R1         N03248 VOUT  100k TC=0,0 
E_E1         VOUT 0 N03309 N03248 100MEG
C_C1         N03248 VOUT  1000p  TC=0,0 
