* source FIG9_27
M_M1         N00524 N00488 0 0 N_50n  
+ L=100n  
+ W=500n         
V_VGS         N00488 0 DC 1.05 AC 1m 
V_VDS         N00524 0 DC 100m  
