* source FIG10_14
C_C1         VOUT 0  5f  TC=0,0 
M_M1         VOUT N03499 VIN 0 N_50n  
+ L=50n  
+ W=500n         
V_Vin         VIN 0  
+PULSE 0 1 0 0 0 1n 2n
V_VDD         N03499 0 DC 1  
