* source FIG10_20
M_M1         N04361 VDD N04482 0 N_50n  
+ L=50n  
+ W=500n         
M_M2         N04482 0 N04361 VDD P_50n  
+ L=50n  
+ W=1u         
V_Vin         N04361 0  
+PULSE 0 1 500p 0 0 1n 3n
V_VDD         VDD 0 DC 1  
C_C1         N04482 0  50f  TC=0,0 
