* source FIG11_8
V_VDD         VDD 0 DC 5  
M_M2         VOUT1 VIN VDD VDD P_1u  
+ L=1u  
+ W=30u         
M_M1         VOUT1 VIN 0 0 N_1u  
+ L=1u  
+ W=10u         
V_Vin         VIN 0 DC 0  
M_M3         VOUT3 VIN 0 0 N_1u  
+ L=1u  
+ W=10u         
M_M4         VOUT3 VIN VDD VDD P_1u  
+ L=1u  
+ W=10u         
M_M5         VOUT333 VIN 0 0 N_1u  
+ L=1u  
+ W=10u         
M_M6         VOUT333 VIN VDD VDD P_1u  
+ L=1u  
+ W=90u         
