* source FIG12_3
M_M2         N02841 VIN N02869 0 N_1u  
+ L=1u  
+ W=10u         
M_M6         VDD VIN VOUT VDD P_1u  
+ L=1u  
+ W=10u         
M_M1         N02869 VIN 0 0 N_1u  
+ L=1u  
+ W=10u         
V_Vin         VIN 0 DC 0  
M_M4         VDD VIN VOUT VDD P_1u  
+ L=1u  
+ W=10u         
M_M5         VDD VIN VOUT VDD P_1u  
+ L=1u  
+ W=10u         
M_M3         VOUT VIN N02841 0 N_1u  
+ L=1u  
+ W=10u         
V_VDD         VDD 0 DC 5  
