* source FIG12_5
M_M3         VOUT VIN 0 0 N_1u  
+ L=1u  
+ W=10u         
V_VDD         VDD 0 DC 5  
M_M5         N04224 VIN N04220 VDD P_1u  
+ L=1u  
+ W=10u         
M_M4         VOUT VIN N04224 VDD P_1u  
+ L=1u  
+ W=10u         
V_Vin         VIN 0 DC 0  
M_M1         VOUT VIN 0 0 N_1u  
+ L=1u  
+ W=10u         
M_M6         N04220 VIN VDD VDD P_1u  
+ L=1u  
+ W=10u         
M_M2         VOUT VIN 0 0 N_1u  
+ L=1u  
+ W=10u         
