* source FIG1_12
V_Vin         VIN 0 DC 1  
V_Vmeas         N00151 0 DC 0V  
R_R1         VIN VOUT  1k TC=0,0 
R_R2         N00151 VOUT  2k TC=0,0 
