* source FIG1_13
E_E1         VT VB VIN 0 23
R_R1         VT VOUT  1k TC=0,0 
R_R2         0 VB  3k TC=0,0 
R_R3         0 VOUT  2k TC=0,0 
V_Vin         VIN 0 DC 1V  
