* source FIG1_22
R_R1         VIN VOUT  1k TC=0,0 
V_Vin         VIN 0  AC 0
+SIN 0 1 200 0 0 0
C_C1         0 VOUT  1u  TC=0,0 
C_C2         VIN VOUT  2u  TC=0,0 
