* source FIG1_31
V_Vin         VIN 0 DC 5V AC 0 0
R_R1         N00129 VOUT  1k TC=0,0 
R_R2         0 VOUT  1k TC=0,0 
L_L1         VOUT 0  10uH IC=5m 
X_U1         VIN N00129 Sw_tOpen PARAMS: tOpen=2n ttran=1p Rclosed=0.01
+  Ropen=1Meg
