* source FIG1_33
G_U2_G1         VOUT 0 VM 0 1MEG
R_U2_R1         0 VOUT  1 TC=0,0 
V_Vin         VIN 0 DC 0 AC 1 
R_Rin         VIN VM  1k TC=0,0 
C_Cf         VM VOUT  1u  TC=0,0 
