* source FIG4_6
V_Vin         VIN 0  
+PULSE 0 1 50p 
X_poly_nosilicide         VIN VOUT1 0 TLUMP128 PARAMS: LEN=1000 R=200 L=0 G=0
+  C=9e-18
X_poly_silicide         VIN VOUT2 0 TLUMP128 PARAMS: LEN=1000 R=5 L=0 G=0
+  C=9e-18
R_Rload1         0 VOUT1  1G TC=0,0 
R_Rload2         0 VOUT2  1G TC=0,0 
