* source FIG6_13
M_M1         N02400 N02432 0 N02905 N_1u  
+ L=1u  
+ W=10u         
V_VGS         N02432 0 DC 0  
V_VDS         N02400 0 DC 5  
V_VSB         0 N02905 DC 0  
