* source FIG9_14
M_M1         N00524 N00488 N02562 0 N_1u  
+ L=1u  
+ W=10u         
V_Vin         N00488 0 DC 2.5 AC 1m 
V_VDD         N00524 0 DC 5  
R_R1         0 N02562  10MEG TC=0,0 
