* source FIG9_29
M_M1         N00524 N00488 0 N03310 N_1u  
+ L=2u  
+ W=10u         
V_VGS         N00488 0 DC 1.05 AC 1m 
V_VDS         N00524 0 DC 2  
V_VSB         0 N03310 DC 0  
