* source FIG9_30
V_VGS         N04108 0 DC 0  
M_M1         N04092 N04108 0 N04068 N_50n  
+ L=100n  
+ W=2.5u         
V_VDS         N04092 0 DC 1  
V_VSB         0 N04068 DC 0  
