* source FIG9_31
V_VGS         N02631 0 DC 350m  
V_VDS         N02615 0 DC 0  
M_M1         N02615 N02631 0 0 N_50n  
+ L=100n  
+ W=2.5u         
