* source FIG9_32
V_VGS         N02998 0 DC 350m  
V_VDS         N02982 0 DC 0  
M_M1         N02982 N02998 0 0 N_50n  
+ L=100n  
+ W=2.5u         
