* source FIG9_33
V_VDS         N03180 0 DC 100m  
V_VGS         N03196 0 DC 0  
M_M1         N03180 N03196 0 N03279 N_50n  
+ L=100n  
+ W=2.5u         
V_VSB         0 N03279 DC 0  
