* source FIG9_34
V_VSB         0 N03501 DC 0  
M_M1         N03467 N03491 0 N03501 N_50n  
+ L=100n  
+ W=2.5u         
V_VDS         N03467 0 DC 100m  
V_VGS         N03491 0 DC 350m AC 1 
