* source FIG10_5_NMOS
V_VGS         N00413 0 DC 0  
V_VDS         N00401 0 DC 0  
M_M1         N00401 N00413 0 0 N_1u  
+ L=1u  
+ W=10u         
