* source FIG10_19_NMOS
M_M1         VOUT N03835 VIN 0 N_50n  
+ L=50n  
+ W=500n         
V_VDD         N03835 0 DC 1  
V_Vin         VIN 0  
+PULSE 0 1 500p 0 0 1n 3n
C_C1         VOUT 0  50f  TC=0,0 
