* source FIG9_24_NMOS
M_M1         N00524 N00488 0 0 N_1u  
+ L=2u  
+ W=10u         
V_VGS         N00488 0 DC 1.05 AC 1m 
V_VDS         N00524 0 DC 5  
