* source FIG6_19_NMOS_ID_VGS
M_M1         N02400 N02432 0 N03240 N_50n  
+ L=50n  
+ W=500n         
V_VGS         N02432 0 DC 0  
V_VDS         N02400 0 DC 1  
V_VSB         0 N03240 DC 0  
