* source FIG10_12_NMOS_LONG
V_Vin         VIN 0  
+PULSE 0 5 200p 100p 
M_M1         VOUT VIN 0 0 N_1u  
+ L=1u  
+ W=10u         
C_C1         VOUT 0  50f IC=5 TC=0,0 
