* source FIG10_12_NMOS_SHORT
V_Vin         VIN 0  
+PULSE 0 1 200p 100p 
C_C1         VOUT 0  50f IC=1 TC=0,0 
M_M1         VOUT VIN 0 0 N_50n  
+ L=50n  
+ W=500n         
