* source FIG9_29_PMOS
V_VSG         0 N04041 DC 0 AC 1m 
M_M1         N04015 N04041 0 N04132 P_1u  
+ L=2u  
+ W=30u         
V_VSD         0 N04015 DC 2  
V_VBS         N04132 0 DC 0  
