* source FIG10_19_PMOS
V_VDD         VDD 0 DC 1  
C_C1         VOUT 0  50f  TC=0,0 
V_Vin         VIN 0  
+PULSE 1 0 500p 0 0 1n 3n
M_M1         VOUT 0 VIN VDD P_50n  
+ L=50n  
+ W=1u         
