* source FIG10_5_PMOS
M_M1         N02527 N02491 N02495 N02495 P_1u  
+ L=1u  
+ W=10u         
V_VSD         N02495 N02527 DC 0  
V_VDD         N02495 0 DC 5  
V_VSG         N02495 N02491 DC 0  
