* source FIG6_13_PMOS
M_M1         N03602 N03558 0 N03646 P_1u  
+ L=1u  
+ W=10u         
V_VBS         N03646 0 DC 0  
V_VSG         0 N03558 DC 0  
V_VSD         0 N03602 DC 2  
