* source FIG9_24_PMOS
V_VSG         0 N03812 DC 1.15 AC 1m 
V_VSD         0 N03300 DC 5  
M_M1         N03300 N03812 0 0 P_1u  
+ L=2u  
+ W=30u         
