* source FIG9_27_PMOS
M_M1         N03731 N03675 0 0 P_50n  
+ L=100n  
+ W=1u         
V_VSD         0 N03731 DC 100m  
V_VSG         0 N03675 DC 0  
