* source FIG9_30_PMOS
V_VBS         N04208 0 DC 0  
V_VSG         0 N04112 DC 0  
M_M1         N04168 N04112 0 N04208 P_50n  
+ L=100n  
+ W=5u         
V_VSD         0 N04168 DC 1  
