* source FIG9_32_PMOS
V_VSG         0 N03925 DC 350m  
M_M1         N03987 N03925 0 0 P_50n  
+ L=100n  
+ W=5u         
V_VSD         0 N03987 DC 0  
