* source FIG9_33_PMOS
V_VSD         0 N04408 DC 100m  
M_M1         N04408 N04346 0 N04585 P_50n  
+ L=100n  
+ W=5u         
V_VSG         0 N04346 DC 0  
V_VBS         N04585 0 DC 0  
