* source FIG9_34_PMOS
V_VBS         N04853 0 DC 0  
V_VSD         0 N04813 DC 100m  
M_M1         N04813 N04731 0 N04853 P_50n  
+ L=100n  
+ W=5u         
V_VSG         0 N04731 DC 350m AC 1 
