* source FIG6_19_PMOS_ID_VSD
V_VSG         0 N02831 DC 0  
V_VSD         0 N02927 DC 1  
M_M1         N02927 N02831 0 N03503 P_50n  
+ L=50n  
+ W=500n         
V_VBS         N03503 0 DC 0  
