* source FIG10_12_PMOS_LONG
M_M1         VOUT VIN N03176 N03176 P_1u  
+ L=1u  
+ W=10u         
C_C1         VOUT 0  50f IC=0 TC=0,0 
V_VDD         N03176 0 DC 5  
V_Vin         VIN 0  
+PULSE 5 0 200p 100p 
