* source FIG10_12_PMOS_SHORT
V_Vin         VIN 0  
+PULSE 1 0 200p 100p 
V_VDD         N03486 0 DC 1  
C_C1         VOUT 0  50f IC=0 TC=0,0 
M_M1         VOUT VIN N03486 N03486 P_50n  
+ L=1u  
+ W=10u         
