* source FIG11_4_LONG
M_M1         VOUT VIN 0 0 N_1u  
+ L=1u  
+ W=10u         
M_M2         VOUT VIN VDD VDD P_1u  
+ L=1u  
+ W=10u         
V_Vin         VIN 0 DC 0  
V_VDD         VDD 0 DC 5  
