* source FIG10_20_SYMBOL
M_U1_M4         VOUT 0 VIN VDD P_50n  
+ L=50n  
+ W=1u         
M_U1_M3         VIN VDD VOUT 0 N_50n  
+ L=50n  
+ W=500n         
C_C1         VOUT 0  50f  TC=0,0 
V_Vin         VIN 0  
+PULSE 0 1 500p 0 0 1n 3n
V_VDD         VDD 0 DC 1  
