* source NOISE_NMOS_50N
V_VDS         N04725 0 DC 500m  
V_VGS         N04492 0 DC 350m AC 1 
M_M1         VD N04492 0 0 N_50n  
+ L=100n  
+ W=2.5u         
G_G1         N04725 VD N04725 VD 1
