* source NOISE_PMOS_50N
V_VSD         0 N05147 DC 500m  
M_M1         VD N05011 0 0 P_50n  
+ L=100n  
+ W=5u         
V_VSG         0 N05011 DC 350m AC 1 
G_G1         VD N05147 VD N05147 1
