* source TAB9_1_FTN
V_VDS         N03542 0 DC 250m  
V_VGS         N03536 0 DC 1.05 AC 1 
V_VSB         0 N03612 DC 0  
M_M1         N03542 N03536 0 N03612 N_1u  
+ L=2u  
+ W=10u         
