* source TAB9_1_FTP
V_VSG         0 N06555 DC 1.15 AC 1 
V_VSD         0 N06561 DC 250m  
M_M1         N06561 N06555 0 N06571 P_1u  
+ L=2u  
+ W=30u         
V_VBS         N06571 0 DC 0  
